US06821977B2
9-Formyl-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene-4-carboxylic acid methyl ester
Potassium carbonate was ground and flame dried prior to each use. 3-formylamino-2-hydroxy-benzoic acid methyl ester compound (1.952 grams, 10 mmol) and potassium carbonate (2.764 grams, 20 mmol, 2 eq.) were placed in a flask together with 100 mL of anhydrous DMF. Heated to 120° C. for 1 hour. 1-bromo-3-chloropropane (1 mL, 10 mmol, 1 eq.) was added to the reaction mixture in several portions at 120° C. and the reaction heated for an additional 3 hours. The reaction was monitored on TLC (ethyl acetate). After cooling, the reaction mixture was stripped to a minimal volume, diluted with water and extracted three times with ethyl acetate. The combined organic portions were washed with water, brine and dried over magnesium sulfate. Filtration and solvent removal afforded crude product as a thick brown syrup (1.78 grams) which was chromatographed on silica gel using 30% ethyl acetate in hexane as eluent. The product was obtained in 67% yield as light yellow solid. M+236.

reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-formylamino-2-hydroxy-benzoic acid methyl ester | 10 mmol, 1.952 grams | COC(C1=C(C(=CC=C1)NC=O)O)=O | C9H9NO4
reactant | potassium carbonate | 20 mmol, 2.764 grams, 2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | 1-bromo-3-chloropropane | 10 mmol, 1 mL, 1 eq. | BrCCCCl | C3H6BrCl
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-Formyl-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocycloheptene-4-carboxylic acid methyl ester | 1.78 grams, 67% yield | COC(=O)C1=CC=CC=2N(CCCOC21)C=O | C12H13NO4
